US07968725B2
d) 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester
A solution of 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester (80 mg, 0.14 mmol), Pd/C (10%, 10 mg) in methanol (10 mL) was hydrogenated for 4 h. The mixture was filtered through Celite, washed with methanol, evaporated. The residue was dissolved in CH2Cl2, filtered and evaporated to give the product as a colorless oil (80 mg, 100%). 1H NMR (300 MHz, CDCl3) δ 8.56 (s, 2H), 8.24 (d, J=7.91 Hz, 2H), 7.96 (s, 1H), 7.70-7.85 (m, 4H), 3.80-3.92 (m, 1H), 3.73 (s, 3H), 2.14 (ddd, J=6.97, 8.48, 13.56 Hz, 1H), 1.76 (dt, J=7.06, 13.75 Hz, 1H), 1.50-1.65 (m, 1H), 0.98 (d, J=6.78 Hz, 6H). MS m/e 564.2 (M+H).

reactant | 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester | 0.14 mmol, 80 mg | COC(C(CC(=C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C27H20F9NO2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 80 mg, 100% | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C27H22F9NO2
